US07943605B2
A suspension of 5-bromo-2-chloropyridine a130 (0.75 g, 3.9 mmol, 1 eq), (5S)-5-(piperidin-1-ylmethyl)pyrrolidin-2-one a15 (0.85 g, 4.67 mmol, 1.2 eq), cesium carbonate (1.78 g, 5.46 mmol, 1.4 eq), Xanphos (0.17 g, 0.29 mmol, 0.075 eq), and tris(dibenzylideneacetone) dipalladium (0) (89 mg, 0.097 mmol, 0.025 eq) in dioxane (25 ml) is stirred under an argon atmosphere in a sealed tube for 12 h at 100° C. The mixture is left to cool to room temperature and filtered through a pad of Celite. The solid is washed with ethyl acetate and the resulting soluble fractions are combined and concentrated to dryness. The residue is taken up in ethyl acetate and washed twice with a saturated aqueous solution of sodium hydrogenocarbonate. The organic phase is then dried over magnesium sulfate and concentrated to afford 1.4 g of crude mixture. Purification by chromatography over silicagel (dichloromethane/methanol/ammonia gradient) affords 0.5 g of (5S)-1-(6-chloropyridin-3-yl)-5-(piperidin-1-ylmethyl)pyrrolidin-2-one a131.

reactant | 5-bromo-2-chloropyridine | BrC=1C=CC(=NC1)Cl | C5H3BrClN
reactant | (5S)-5-(piperidin-1-ylmethyl)pyrrolidin-2-one | N1(CCCCC1)C[C@@H]1CCC(N1)=O | C10H18N2O
reactant | cesium carbonate | 5.46 mmol, 1.78 g, 1.4 eq | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | dioxane | 25 ml | O1CCOCC1 | C4H8O2
catalyst | tris(dibenzylideneacetone) dipalladium (0) | 0.097 mmol, 89 mg, 0.025 eq | [Pd].[Pd].C(C1=CC=CC=C1)=CC(=O)C=CC1=CC=CC=C1.C(C1=CC=CC=C1)=CC(=O)C=CC1=CC=CC=C1.C(C1=CC=CC=C1)=CC(=O)C=CC1=CC=CC=C1
product | (5S)-1-(6-chloropyridin-3-yl)-5-(piperidin-1-ylmethyl)pyrrolidin-2-one | 0.5 g, Yield: 44% | ClC1=CC=C(C=N1)N1C(CC[C@H]1CN1CCCCC1)=O | C15H20ClN3O
